US05892044
1-(p-methoxybenzyl)-3,4,5,6,7,8-hexahydroisoquinoline
27.3 g (0.1 mol) of N-[2-(cyclohexen-1-yl)ethyl]-p-methoxyphenylacetamide and 91.4 g (0.596 mol) of phosphorus oxychloride in 230 ml of toluene were heated to 100° C. under argon for 30 min. The mixture was then evaporated in a rotary evaporator, and the residue (46 g) was washed twice with 70 ml of petroleum ether and then dissolved in 270 ml of dichloromethane. The solution was added to 270 ml of a 12% strength aqueous ammonia solution at 0° C. with vigorous stirring. The organic phase was washed with 90 ml of water, dried over sodium sulfate and evaporated, giving 27.0 g of a viscous yellow-brown oil, which was used immediately for the hydrogenation.

reactant | N-[2-(cyclohexen-1-yl)ethyl]-p-methoxyphenylacetamide | 0.1 mol, 27.3 g | C1(=CCCCC1)CCNC(CC1=CC=C(C=C1)OC)=O | C17H23NO2
reactant | phosphorus oxychloride | 0.596 mol, 91.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(p-methoxybenzyl)-3,4,5,6,7,8-hexahydroisoquinoline | 27.0 g | COC1=CC=C(CC2=NCCC=3CCCCC23)C=C1 | C17H21NO
